US06479502B1
3-Acetylsulfanyl-5-phenyl-pentanoic acid tert-butyl ester
3-Acetylsulfanyl-5-phenyl-pentanoic acid was taken up in DCM (15 mL) with stirring in a pressure bottle. c.H2SO4 (1 mL) was added and the solution cooled to −78° C. Isobutylene gas was bubbled through this solution until the volume had doubled. The pressure vessel was sealed and allowed to warm to room temperature and stirred overnight. The reaction was re-cooled to −78° C. and opened and warmed to room temparature. The excess isobuylene gas was allowed to evaporate and then the reaction solution was poured into a stirred 1 M Na2CO3 solution. The product was extracted into DCM and washed with brine, dried and filtered and evaporated under reduced pressure to give an orange oil (10.64 g, 34.5 mmol). 1H-NMR δ(CDCl3) 7.27-7.14 (5H, m), 3.88 (1H, m), 2.80-2.51 (4H, m), 2.34 (3H, s), 1.97-1.84 (2H, m) and 1.43 (9H, s).

reactant | 3-Acetylsulfanyl-5-phenyl-pentanoic acid | C(C)(=O)SC(CC(=O)O)CCC1=CC=CC=C1 | C13H16O3S
reactant | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-Acetylsulfanyl-5-phenyl-pentanoic acid tert-butyl ester | 34.5 mmol, 10.64 g | C(C)(C)(C)OC(CC(CCC1=CC=CC=C1)SC(C)=O)=O | C17H24O3S
